US09108983B2
Step A: 4-Bromo-1,5-dimethyl-1H-pyrrole-2-carbonitrile
A solution of bromine (6.58 mL, 0.13 mol) in acetic acid (60 mL) is added dropwise, with the aid of a dropping funnel, to a solution of 1,5-dimethyl-1H-pyrrole-2-carbonitrile (15.0 g, 0.12 mol) in acetic acid (300 mL). The batch is stirred at ambient temperature for 24 hours. The reaction mixture is then poured into a beaker containing 300 mL of water. The solid formed is filtered off and rinsed with water. It is then dissolved in dichloromethane (300 mL) and the organic phase is washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to yield the expected product in the form of a solid.

reactant | bromine | 0.13 mol, 6.58 mL | BrBr | Br2
reactant | 1,5-dimethyl-1H-pyrrole-2-carbonitrile | 0.12 mol, 15.0 g | CN1C(=CC=C1C)C#N | C7H8N2
reactant | water | 300 mL | O | H2O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-1,5-dimethyl-1H-pyrrole-2-carbonitrile | BrC=1C=C(N(C1C)C)C#N | C7H7BrN2
